US05272234
(i) 4-(4'-methylphenoxy)hexyl bromide
A solution of 62 g of methoxy phenol in 50 ml of methanol was added into a solution of 33.75g of potassium hydroxide in 100 ml of methanol. The resulting solution was added dropwisely and slowly into 1 mole of α, -dibromohexane in 200 ml of acetone within 1 hour. After a reflux of the mixture for 1 hour, the mixture was concentrated and then diluted with water. The oil layer of the mixture was extracted with ethyl ether. Then, the ethyl ether layer was filtered and the filtrate was extracted with water. The solution was dried by calcium chloride, and 4-(4'-methoxyphenoxy) hexylbromide (compound 1, with a yield of 62% was obtained by distillation under reduced pressure.

reactant | methoxy phenol | 62 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | potassium hydroxide | 33.75g | [OH-].[K+]
reactant | dibromohexane | BrC(CCCCC)Br | C6H12Br2
reactant | methanol | 50 ml | CO | CH4O
reactant | methanol | 100 ml | CO | CH4O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 4-(4'-methylphenoxy)hexyl bromide | yield of 62% | CC1=CC=C(OC(CCCBr)CC)C=C1 | C13H19BrO
